US08492549B2
{(S)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-ylmethoxy}acetic acid tert-butyl ester
To a stirred solution of {(S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-yl}methanol (0.516 g, 1.8 mmol) in toluene (4 ml) was added tetrabutylammonium bromide (0.12 g) and 50% NaOH (4 ml). The mixture was stirred at RT for 15 min and bromoacetic acid tert-butyl ester (0.53 g) was added. After vigorous stirring at RT overnight, the reaction was quenched by addition of brine (15 ml) and the aqueous phase extracted twice with toluene. The combined organic phases were extracted with 1 M HCl solution and the acidic water phase was basified by addition of NaOH. Extraction with toluene and evaporation afforded the title compound (0.48 g) as an oil.

reactant | {(S)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-yl}methanol | 1.8 mmol, 0.516 g | O1[C@H](COC2=C1C=CC=C2)CN2C[C@@](CCC2)(C)CO | C16H23NO3
reactant | NaOH | 4 ml | [OH-].[Na+]
reactant | bromoacetic acid tert-butyl ester | 0.53 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.12 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | {(S)-1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]-3-methylpiperidin-3-ylmethoxy}acetic acid tert-butyl ester | 0.48 g | C(C)(C)(C)OC(COC[C@@]1(CN(CCC1)C[C@H]1COC2=C(O1)C=CC=C2)C)=O | C22H33NO5
